US05500317
A mixture of 81.0 grams (0.555 mol) trans-4-phenyl-3-buten-2-one, 81.7 grams (0.552 mol) 4-isopropylbenzaldehyde, 12 mL of 10% sodium hydroxide, 150 mL water and 220 mL ethanol was stirred at ambient temperature for 15 hours. The crystalline product was collected by vacuum filtration to give 90.0 grams (59% of theoretical yield) of E,E-1-(p-isopropylphenyl)-5-phenyl-1,4-pentadien-3-one as a yellow solid. Melting point=76.0°-78.0° C. IR (KBr) 2960, 1655, 1595, 1345, 1195, 980, 820, 760, 695 cm-1 ; FDMS, m+ /z 276 (C20H2O). 1H NMR (CDCl3) d 7.74 (d, 2H, J=16 Hz), 7.59 (m, 2H) , 7.55 (d, 2H, J=8 Hz) , 7.39 (m, 3H) , 7.26 (d, 2H, J=8 Hz), 7.09 (d, 1H, J=16 Hz), 7.045 (d, 1H, J=16 Hz), 2.93 (septet, 1,H, J=7 Hz), 1.26 (d, 6H, J=7 Hz). Anal. Calcd. for C20H20O; C, 86.92;H, 7.29. Found: C, 86.87,H, 7.32.

reactant | trans-4-phenyl-3-buten-2-one | 0.555 mol, 81.0 grams | C1(=CC=CC=C1)/C=C/C(C)=O | C10H10O
reactant | 4-isopropylbenzaldehyde | 0.552 mol, 81.7 grams | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | sodium hydroxide | 12 mL | [OH-].[Na+]
reactant | water | 150 mL | O | H2O
solvent | ethanol | 220 mL | C(C)O | C2H6O
product | E,E-1-(p-isopropylphenyl)-5-phenyl-1,4-pentadien-3-one | 90.0 grams, 59% | C(C)(C)C1=CC=C(C=C1)\C=C\C(\C=C\C1=CC=CC=C1)=O | C20H20O
